US06762197B2
315 mg (1.40 mmol) of N,N-dimethyl-(2-methyl-5-phenylbenzyl)amine (produced in the same manner as in Intermediate Production Example 12) was dissolved in 3 ml of toluene, and to this solution was added 370 mg (3.92 mmol) of methyl chlorocarbonate at room temperature. Directly after addition, the reaction mixture tuned to white suspension. This while suspension was stirred at room temperature for 7 hours, then, washed with 1 N hydrochloric acid, saturated sodium bicarbonate water, and saturated saline, sequentially, and dried over anhydrous magnesium sulfate, then, concentrated. The residue was subjected to silica gel column chromatography (eluant: hexane, then, hexane/ethyl acetate=10/1 (v/v)), to obtain 282 mg of 2-methyl-5-phenylbenzyl chloride.

reactant | methyl chlorocarbonate | 3.92 mmol, 370 mg | C(OC)(=O)Cl | C2H3ClO2
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-5-phenylbenzyl chloride | 282 mg | CC1=C(CCl)C=C(C=C1)C1=CC=CC=C1 | C14H13Cl
